US05137892
Step 2: 1,5-dioxa-8-azaspiro[5.4]decane
The protecting group was removed by dissolving 2.09 g (7.5 mmol) of 1,5-dioxa-8-azaspiro[5.4]decane benzyl carbamate, from Step 1, in 100 mL of methanol, adding 0.50 g of 20% Pd/C, and hydrogenating at room temperature under 4 atm of hydrogen for 24 hours. The catalyst was removed by filtration, then the solvent was removed under vacuum to afford the title compound, MS: M/Z 144 (M+H), which was taken directly to the next step.

reactant | 1,5-dioxa-8-azaspiro[5.4]decane benzyl carbamate | 7.5 mmol, 2.09 g | C(C1=CC=CC=C1)NC(O)=O.O1CCCOC12CNCC2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.50 g | [Pd] | Pd
product | 1,5-dioxa-8-azaspiro[5.4]decane | O1CCCOC12CNCC2 | C7H13NO2
